US05273999
A mixture of 2.6 g (10 mmol) of 2-[(5-bromopentyl)oxy]phenol, 1.8 g (12 mmol) of methyl bromoacetate, 4.4 g (32 mmol) of anhydrous granular potassium carbonate, and 60 mL of dry acetonitrile was stirred and refluxed for 20 hr. The mixture was cooled and filtered with suction. The solids were washed with ether and the filtrate and washes were combined and concentrated in vacuo. The oily residue was purified by flash chromatography on silica gel, eluting with 3:1 hexane-ether. There was obtained 2.2 g (66.5%) of [2-[(5-bromopentyl)oxy]phenoxy]acetic acid methyl ester as an oil.

reactant | 2-[(5-bromopentyl)oxy]phenol | 10 mmol, 2.6 g | BrCCCCCOC1=C(C=CC=C1)O | C11H15BrO2
reactant | methyl bromoacetate | 12 mmol, 1.8 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 32 mmol, 4.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | [2-[(5-bromopentyl)oxy]phenoxy]acetic acid methyl ester | 2.2 g, 66.5% | COC(COC1=C(C=CC=C1)OCCCCCBr)=O | C14H19BrO4
